US05495020
To 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-methyl-5-nitrotoluene (1.73 g) are added anhydrous dimethyl sulfoxide (18 ml), potassium fluoride (0.53 g) and cyclopropylamine (2.2 ml) and the mixture is stirred at 100° C. for 23 hours. After cooling, the mixture is poured into ice-water, extracted with dichloromethane and the extract is dried. The solvent is distilled off under reduced pressure and the residue is purified by silica-gel column-chromatography (dichloromethane : methanol=40 : 1) to give 3-(4-methyl-1-piperazinyl)-4-fluoro-2,5-dimethyl-6-nitro-N-cyclopropylaniline (1.65 g).

reactant | 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-methyl-5-nitrotoluene | 1.73 g | CN1CCN(CC1)C1=C(C(=C(C(=C1F)C)[N+](=O)[O-])F)C | C13H17F2N3O2
reactant | potassium fluoride | 0.53 g | [F-].[K+]
reactant | cyclopropylamine | 2.2 ml | C1(CC1)N | C3H7N
solvent | dimethyl sulfoxide | 18 ml | CS(=O)C | C2H6OS
product | 3-(4-methyl-1-piperazinyl)-4-fluoro-2,5-dimethyl-6-nitro-N-cyclopropylaniline | 1.65 g | CN1CCN(CC1)C=1C(=C(NC2CC2)C(=C(C1F)C)[N+](=O)[O-])C | C16H23FN4O2
